US03946112
A solution of 20.0 g (0.0321 mole) of bis(5-dimethylamino-2,2-dimethylpentyl)-9-oxofluorene-2,7-dicarboxylate dihydrochloride in water (total volume = 240 cc.) is hydrogenated over 8.0 g of 10% palladium on charcoal for 2 days at 53°C on a Parr hydrogenation apparatus. The reaction mixture is decanted from the catalyst, filtered through filtered acid, treated with charcoal and again filtered. This solution is made basic to phenolphthalein with 20% NaOH and extracted 3 times with CHCl3. The combined extracts were washed twice with water, dried over anhydrous Na2SO4, filtered and the filtrate made acid to Congo Red with ethereal HCl. Most of the solvent is removed on the steam bath under vacuum and the resulting solid recrystallized from methanol-ether and from absolute ethanol. Bis(5-dimethylamino-2,2-dimethylpentyl)fluorene-2,7-dicarboxylate dihydrochloride thus obtained is dried for 4 hours under high vacuum at 80°C. M.P. 294°-295°C (gas evolution).

reactant | bis(5-dimethylamino-2,2-dimethylpentyl)-9-oxofluorene-2,7-dicarboxylate dihydrochloride | 0.0321 mole, 20.0 g | Cl.Cl.CN(CCCC(COC(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(=O)OCC(CCCN(C)C)(C)C)=O)(C)C)C
solvent | water | O | H2O
catalyst | palladium on charcoal | 8.0 g | [Pd] | Pd
product | Bis(5-dimethylamino-2,2-dimethylpentyl)fluorene-2,7-dicarboxylate dihydrochloride | Cl.Cl.CN(CCCC(COC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(=O)OCC(CCCN(C)C)(C)C)(C)C)C | InChI=1S/C33H48N2O4.2ClH/c1-32(2,15-9-17-34(5)6)22-38-30(36)24-11-13-28-26(19-24)21-27-20-25(12-14-29(27)28)31(37)39-23-33(3,4)16-10-18-35(7)8;;/h11-14,19-20H,9-10,15-18,21-23H2,1-8H3;2*1H
